US04857440
N-Benzylalanine (S-14)
L-Alanine (44.6 g, 0.5 mole)) was taken up in 250 mL 2N-NaOH to which was added benzaldehyde (50 mL, 0.5 mole). The resulting suspension was stirred at room temperature for approximately 20 minutes. After this period a pale yellow solution resulted. This solution was cooled in an ice/acetone bath and sodium borohydride (5.7 g, 0.15 mole) added in 1.0 g portions while keeping the temperature below 15° C. A large flask is necessary as a good deal of foaming takes place during the course of the reaction. The above process was repeated with the same quantities of benzaldehyde and sodium borohydride. However, this time after the addition of the sodium borohydride, the resulting solution was stirred for about 11/2 hours at room temperature and then washed with either (100 mL, ×2). The ether extracts were discarded and the aqueous phase acidified with 6N-HCl to pH 6-7. The product precipitated out of the solution. The resulting mixture was left overnight in the refrigerator and filtered the following morning. The product was washed with a little cold water and air dried. Yield 67 g (75%).

reactant | L-Alanine | 0.5 mole, 44.6 g | N[C@@H](C)C(=O)O | C3H7NO2
reactant | NaOH | [OH-].[Na+]
reactant | benzaldehyde | 0.5 mole, 50 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 0.15 mole, 5.7 g | [BH4-].[Na+]
product | N-Benzylalanine | C(C1=CC=CC=C1)N[C@@H](C)C(=O)O | C10H13NO2
